US08975250B2
1.2: 4-Ethylamino-2-methylthio 5-pyrimidinecarboxylic acid
A mixture containing 6.33 g (26.0 mmol) of ethyl 4-ethylamino-2-methylthio-5-pyrimidinecarboxylate, 65 mL (65.0 mmol) of 1N NaOH and 60 mL of ethanol is refluxed for 1 hour. The ethanol is evaporated off under reduced pressure and the residue is diluted in 100 mL of water. 65 mL of aqueous 1N HCl solution are added and the white precipitate formed is drained by suction. The solid is rinsed with water and dried under vacuum. 5.1 g of expected product are obtained in the form of a white solid. Melting point=188°C. Yield=92%.

reactant | ethyl 4-ethylamino-2-methylthio-5-pyrimidinecarboxylate | 26.0 mmol, 6.33 g | C(C)NC1=NC(=NC=C1C(=O)OCC)SC | C10H15N3O2S
reactant | NaOH | 65.0 mmol, 1N, 65 mL | [OH-].[Na+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 4-Ethylamino-2-methylthio 5-pyrimidinecarboxylic acid | 5.1 g, Yield=92% | C(C)NC1=NC(=NC=C1C(=O)O)SC | C8H11N3O2S
